US07361671B2
To a ice-cooled mixture of lithium aluminum hydride (95%) (6.7 g, 168 mmol) in anhydrous diethyl ether (750 mL) is added a solution of 2,6-dimethyl-pyridine-3,5-dicarboxylic acid diethyl ester (31.5 g, 125 mmol) in diethyl ether (250 mL) via cannula under a stream of nitrogen. After the addition is complete, the reaction mixture is warmed to 40° C. for 0.5 h. After cooling to 0° C., water (50 mL) is added slowly under a stream of nitrogen. The resulting solids are filtered, washed with diethyl ether (250 mL), suspended in methanol (700 mL) and warmed to a gentle reflux (1 h). The remaining aluminum salts are filtered hot and washed with hot methanol (200 mL). The filtrate is concentrated and dried in vacuo to afford 5-hydroxymethyl-2,6-dimethyl-pyridin-3-yl-methanol as a white solid and is used in the subsequent step without further purification: Rf 0.16 (10% methanol in chloroform); 1H NMR (DMSO-d6, 300 MHz) δ 7.62 (s, 1 H), 4.45 (s, 4 H), 2.34 (s, 6 H); ESI-LCMS m/z calcd for C9H13NO2: 167.1; found 168.0 (M+1)+.

reactant | lithium aluminum hydride | 168 mmol, 6.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2,6-dimethyl-pyridine-3,5-dicarboxylic acid diethyl ester | 125 mmol, 31.5 g | C(C)OC(=O)C=1C(=NC(=C(C1)C(=O)OCC)C)C | C13H17NO4
reactant | water | 50 mL | O | H2O
solvent | diethyl ether | 750 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
product | 5-hydroxymethyl-2,6-dimethyl-pyridin-3-yl-methanol | OCC=1C=C(C(=NC1C)C)CO | C9H13NO2
